US08039483B2
Carbonic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester biphenyl-2-yl ester
The desired product was prepared by reacting imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester with 2-hydroxy biphenyl.

reactant | imidazole-1-carboxylic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester | N12C[C@@H](C(CC1)CC2)OC(=O)N2C=NC=C2 | C11H15N3O2
reactant | 2-hydroxy biphenyl | OC1=C(C=CC=C1)C1=CC=CC=C1 | C12H10O
product | Carbonic acid (R)-1-aza-bicyclo[2.2.2]oct-3-yl ester biphenyl-2-yl ester | C1(=C(C=CC=C1)OC(O[C@H]1CN2CCC1CC2)=O)C2=CC=CC=C2 | C20H21NO3
